US04349684
8-(2-Oxo-3.4.5-triphenyl-4-imidazolin-1-yl)-caprylic acid
The product is prepared as described in example 18 from 7.5 g of 8-(2-oxo-3.4.5-triphenyl-4-imidazolin-1-yl)-caprylic acid methyl ester and 0.64 g of NaOH in 30 cc. of methanol. Further purification by chromatography on silicic acid gel using chloroform as eluant.

reactant | 8-(2-oxo-3.4.5-triphenyl-4-imidazolin-1-yl)-caprylic acid methyl ester | 7.5 g | COC(CCCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C30H32N2O3
reactant | NaOH | 0.64 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-(2-Oxo-3.4.5-triphenyl-4-imidazolin-1-yl)-caprylic acid | O=C1N(C(=C(N1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCC(=O)O | C29H30N2O3
